Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / cortisone / shellfish derived
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
___ is a ___ year old woman with hypertension, type 2
diabetes on insulin and obesity who presents shortness of 
breath.

The patient and her husband are visiting from ___ for a
conference with their children. Today she and her husband were
having intercourse, and she had acute shortness of breath. Per
the cardiology note the husband described her having "bubbles in
her airway." She describes herself as having acute difficulty
breathing and a feeling of "gurgling." EMS was called, and she
was found to be hypoxic in the ___, hypertensive to the 220s. 
She
was put on a non-rebreather -> BIPAP and a nitroglycerin drip 
was
started before arrival to the ED. 

In the ED initial vitals were 134 155/98 22 100% Non-rebreather.
Her labs were notable for WBC 7.9, Hb 14.7, INR 0.9, BNP 31, Cr
0.9, Troponin <0.01, Serum tox negative,  D-dimer 502. VBG 
showed
pH 7.37, pCO2 45, glucose 354, lactate 1.9. EKG showed sinus
tachycardia, poor R wave progression and non-specific ST-T wave
changes. CXR showed asymmetric pulmonary edema vs atypical
infection. CTA chest showed no PE and extensive ground glass
opacities, concerning for pneumonia but could represent edema.
Cardiology was consulted. TTE showed normal EF, normal right RV
and free wall motion, aortic valve was not well seen, no
effusion. Cardiology recommended titrating nitroglycerin drip to
SBP 150s, serial cardiac markers. She was continued on a
nitroglycerin drip and also given calcium carbonate. Before
arrival her BP was 137/70 and she was 98% RA. 

Upon arrival to the floor, the patient gives the above history.
Right now she is 

Prior to this she was in her usual state of health. She had not
been having fevers, chills, cough, chest pain, abdominal pain.
She does say that a few months ago she had chest burning, that
she said may have been indigestion and resolved on its own. She
also adds that she has had about a 30 pound weight gain in the
past year, which she attributes to starting of insulin. She has
had no orthopnea or PND. There have been no recent changes in
diet or increase in salty foods. She says that although she used
to not take her losartan-HCTZ regularly, she has been taking it
diligently. She says she goes to her PCP ___ 3 months and her
systolic blood pressure is usually in the 120s.
 
REVIEW OF SYSTEMS:  
As per HPI
 
Past Medical History:
1. CARDIAC RISK FACTORS  
-Type 2 Diabetes on insulin 
-Hypertension  
2. CARDIAC HISTORY  
-CABG: None  
-PERCUTANEOUS CORONARY INTERVENTIONS: None  
-PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
Obesity  
 
Social History:
___
Family History:
Father with "massive heart attack" in his ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION  
===================== =======
VITALS:  97.5 143 / 82 115 18 93 2l 
Gen: sitting up in her chair, no acute distress and appears
comfortable, speaking in full sentences
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: JVP to level of the mandible  
CV: tachycardic, regular rhythm, no appreciable murmurs 
LUNGS: bibasilar rales
ABD: NABS. Soft, NT, ND. Obese  
EXT: WWP, 2+edema to knees. .  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Moving all extremities spontaneously 

DISCHARGE PHYSICAL EXAMINATION
============================
Temp 98.9 BP 140 / 80 HR107 RR 18 SaO2 99%RA
Gen: Well-appearing woman sitting in bed, NAD, AAOx3. Flush.  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: JVP to level of the mandible  
CV: tachycardic, regular rhythm, no appreciable murmurs 
LUNGS: bibasilar rales
ABD: NABS. Soft, NT, ND. Obese  
EXT: WWP, 2+edema to knees. .  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Moving all extremities spontaneously 
 
 
Pertinent Results:
ADMISSION LABS
=============
___ 03:30PM BLOOD WBC-7.9 RBC-5.02 Hgb-14.7 Hct-46.0* 
MCV-92 MCH-29.3 MCHC-32.0 RDW-13.4 RDWSD-45.1 Plt ___
___ 03:30PM BLOOD ___ PTT-25.0 ___
___ 03:30PM BLOOD UreaN-17 Creat-0.9
___ 06:15AM BLOOD ALT-54* AST-20 LD(LDH)-201 AlkPhos-68 
TotBili-0.2
___ 06:15AM BLOOD Calcium-8.8 Phos-3.3 Mg-1.9 Cholest-201*
___ 04:44PM BLOOD D-Dimer-502*
___ 06:15AM BLOOD %HbA1c-12.7* eAG-318*
___ 06:15AM BLOOD Triglyc-183* HDL-27* CHOL/HD-7.4 
LDLcalc-137*
___ 06:15AM BLOOD TSH-1.1
___ 06:15AM BLOOD Cortsol-7.2
___ 03:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:54PM BLOOD Glucose-354* Lactate-1.9 Na-139 K-4.0 
Cl-101 calHCO3-25

DISCHARGE LABS
=============
___ 07:23AM BLOOD WBC-7.0 RBC-4.85 Hgb-14.1 Hct-44.3 MCV-91 
MCH-29.1 MCHC-31.8* RDW-13.7 RDWSD-45.6 Plt ___
___ 07:23AM BLOOD Glucose-223* UreaN-11 Creat-0.6 Na-137 
K-4.4 Cl-100 HCO3-24 AnGap-13

IMAGING
=======
ECHO ___
No atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thickness, cavity size, and global systolic 
function are normal (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. The estimated cardiac index is normal (>=2.5L/min/m2). 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve is not well seen. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Physiologic mitral 
regurgitation is seen (within normal limits). There is no 
pericardial effusion. 

IMPRESSION: Suboptimal image quality. Normal biventricular 
systolic function. No significant valvular regurgitation. 

CTA Chest ___
IMPRESSION:
1. Extensive bilateral ground-glass opacities likely represent 
pulmonary
edema. Hilar and mediastinal lymph nodes are likely reactive.
2. No evidence of pulmonary embolism or aortic abnormality.

CXR ___
IMPRESSION: 
 
Findings suggestive of mild asymmetric pulmonary edema within 
the right lung,
with an atypical infection also a consideration.  Follow up 
radiographs after
diuresis are suggested.

 
Brief Hospital Course:
___ is a ___ year old woman with hypertension, type 2 
diabetes on insulin and obesity who presents with acute hypoxic 
respiratory failure in the setting of hypertensive emergency.

TRANSITIONAL ISSUES
===================
[] Weight at discharge: 112.7 kg 
[] HTN regimen at discharge: Losartan 100 mg daily, Diltiazem XL 
240 mg Daily, Furosemide 20 mg
[] Patient found to be tachycardic. On discharge HRs in the 
100s, started on diltiazem in house
[] A1C 12.7 -> patient will require follow-up with PCP or 
diabetes specialist regarding her diabetes management
[] Patient will require renal US to investigate for renal artery 
stenosis. ___ need MRI due to body habitus
[] ECHO ___: Normal LV wall thickness, cavity size, and 
global systolic function (LVEF>55%). No significant valvular 
regurgitation. 
[] Patient requires repeat echo when HR are better controlled 
(the one from ___ was performed at HR of 140s)
[] Consider workup for pheochromocytoma as an outpatient if 
blood pressures continue to be difficult to control
[] CTA showing extensive bilateral ground-glass opacities likely 
represent pulmonary 
edema. Could consider repeat imaging when pulmonary edema 
resolves 
[] Consider sleep study for OSA
[] ASCVD risk prevention: chol found to be elevated. Patient 
should be started on a statin in the outpt setting.

#Acute hypoxic respiratory failure
#Acute pulmonary edema in the setting of hypertensive emergency
Patient presented with acute hypoxic respiratory failure and 
shortness of breath, in the setting of hypertensive emergency. 
Initially hypoxic to the ___ and hypertensive to the 220s, 
requiring nonrebreather, then BiPAP, then placed on a nitro 
drip. The hypoxia improved quickly after being on BiPAP and then 
she quickly transitioned to being stable on RA. Imaging suggests 
pneumonia vs edema, but given the acute onset of symptoms and 
clinical picture, pulmonary edema in the setting of acute 
diastolic heart failure triggered by HTN is more likely. CTA 
showed no PE. Patient received 20 IV Lasix in the emergency 
department, and 20mg PO Lasix the following day. Blood cultures 
were negative by the time of discharge. Could consider repeat 
imaging when pulmonary edema resolves.

#Hypertensive emergency
#Hypertension
Patient presented with HTN emergency in the setting of 
intercourse and potentially not well controlled blood pressure 
as an outpatient. Initially hypoxic to the ___ and hypertensive 
to the 220s, requiring nonrebreather the BiPAP then placed on a 
nitro
drip. She had a similar episode, though much milder nature 
several months ago also during intercourse. Her blood pressure 
have improved on nitro drip, however she remains tachycardic. 
She had no concerning symptoms of angina on her usual activity 
level, and reports can go up a couple flights of stairs without 
any symptoms. Troponin was minimally elevated likely secondary 
to demand. Her echo was normal without valvular abnormalities or 
significant LVH. She should be evaluated for renal artery 
stenosis given the acute nature of this presentation, however 
given it occurred with exertion rather than at rest this is not 
urgent and can be performed as an outpatient.
Patient was optimized on Losartan 100 mg daily, furosemide 20 mg 
PO daily, with plans to start diltiazem XL 240 mg daily on ___ 
after discharge due to HRs in the 100s-110s (she was on 
amlodiine 5 mg daily in-house).
She will require close follow-up with PCP and cardiologist 
regarding the control of her blood pressure.

#Insulin resistance type 2 diabetes. A1C is 12.7. Continue home 
lantus, but will reduce to 60 mg qhs until ensure safe dosing at 
higher dose. Discharged on home dose (Lantus 80) but will 
requires close follow-up for the management of her diabetes 
given the high A1C.

#ASCVD risk prevention: chol found to be elevated. Patient 
should be started on a statin in the outpt setting.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 80 Units Bedtime
2. losartan-hydrochlorothiazide 100-25 mg oral daily 
3. clotrimazole-betamethasone ___ % topical DAILY 

 
Discharge Medications:
1.  Diltiazem Extended-Release 240 mg PO DAILY 
RX *diltiazem HCl 240 mg 1 capsule(s) by mouth Daily Disp #*30 
Capsule Refills:*0 
2.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Losartan Potassium 100 mg PO DAILY 
RX *losartan 100 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
4.  Glargine 60 Units Bedtime 
5.  clotrimazole-betamethasone ___ % topical DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
========
Hypertensive emergency
Acute Diastolic Heart Failure

Secondary
=========
Type II DM

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You came to the hospital because you felt very short of breath 
while having intercourse due to your blood pressure becoming too 
high

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You needed assistance with your breathing for a short amount 
of time with a special mask
- We gave you a water pill to remove the fluid from your lungs
- We controlled your blood pressure to keep it within normal 
range
- We started you on Diltiazem XL 240 mg Daily and a water pill, 
Lasix, 20 mg daily to be taken instead of hydrochlorothiazide.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please start Diltiazem XL 240 mg, 1 pill on the morning of ___ 
and take daily
- Take Losartan 100 mg every morning, starting on ___ (you 
received a dose on ___
- Take Lasix 20 mg every morning, starting on ___ (you received 
a dose on ___
- You need to follow-up with your PCP and your new cardiologist 
regarding the control of your blood pressure and your diabetes. 
You would also likely benefit a diabetes specialist.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team
 
Followup Instructions:
___